US05621133
Step 1: 2-(Carboethoxy)methyl-5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydronaph-thalen-1-one
To a solution of 5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydronaphthalen-1-one (5 g, 17.7 mmol, 1.0 equivalents), the product of Example 1, in 150 mL of dry THF cooled to -78° C., was added 19.5 mL of lithium bis(trimethylsilyl)amide (1M solution in THF, 19.5 mmol, 1.1 equivalent). The resultant solution was stirred at -78° C. for 1 h and then ethyl bromoacetate (2.2 mL, 19.5 mmol, 1.1 equivalent) was added in one portion. The reaction solution was then allowed to warm to ambient temperature and was stirred for 3 h. The reaction was quenched by the addition of 50 mL of saturated ammonium chloride solution. The resultant light yellow colored THF layer was separated and evaporated to an oil. The oil was taken up into 200 mL of methylene chloride and the methylene chloride solution was washed with 2×50 mL of water and 50 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluted with ethyl acetate/hexane (1:6) to give 5.4 g (83% yield) of the title compound as a white solid; 1H NMR (CDCl3) δ: 1.2 (t, 3H, J=7.5 Hz), 2.45 (m, 2H), 3.03 (m, 1H), 3.30 (m, 2H), 3.43 (m, 1H), 3.78 (s, 3H), 3.93 (s, 3H), 4.07 (m, 2H), 6.92 (d, 1H, J=9.0 Hz), 7.32 (m, 5H), 7.89 (d, 1H, J=9.0 Hz). Analysis calculated for C22H24O5 : C, 71.72; H, 6.57. Found: C, 71.39; H, 6.63.

reactant | 5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydronaphthalen-1-one | 17.7 mmol, 5 g, 1.0 equivalents | COC1=C2CC(CC(C2=CC=C1OC)=O)C1=CC=CC=C1 | C18H18O3
reactant | lithium bis(trimethylsilyl)amide | 19.5 mmol, 1M, 19.5 mL, 1.1 equivalent | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl bromoacetate | 19.5 mmol, 2.2 mL, 1.1 equivalent | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(Carboethoxy)methyl-5,6-dimethoxy-3-phenyl-1,2,3,4-tetrahydronaph-thalen-1-one | 5.4 g, 83% yield | C(=O)(OCC)CC1C(C2=CC=C(C(=C2CC1C1=CC=CC=C1)OC)OC)=O | C22H24O5
